US06239131B1
Preparation of 5-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]isophthalic acid
Aqueous lithium hydroxide monohydrate (420 mg) solution (20 ml) was added to a solution of 1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-[3,5-bis(methoxycarbonyl)phenyl]urea (593 mg) in tetrahydrofuran (20 ml), the mixture was stirred at 50° C. for 2 hours. After allowed to cool, the reaction mixture was concentrated under reduced pressure, the residue was acidified with 1N hydrochloric acid, extracted with the mixed solvent of chloroform and methanol (5:1), and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, Isopropyl alcohol was added to the residue, crystals so precipitated were collected by filtration, to thereby obtain 420 mg of the title compound (Yield: 74%).

reactant | lithium hydroxide monohydrate | 420 mg | O.[OH-].[Li+]
reactant | 1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-[3,5-bis(methoxycarbonyl)phenyl]urea | 593 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC(=C2)C(=O)OC)C(=O)OC)=O | C32H40N4O7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]isophthalic acid | 420 mg, Yield: 74% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=C(C(=O)O)C2)C(=O)O)=O)=O | C30H36N4O7
